US05668128
In substantially the same manner as working Example 2, isopentylamine (2.33 ml) was condensed with Boc-L-leucine monohydrate (5.00 g, manufactured by Peptide Institute, Inc.) to give N-(Boc-L-leucyl)isopentylamine (5.73 g) as a white powdery product (yield 95%). The Boc group was deprotected with TFA, and 667 mg of thus-produced compound was condensed, in substantially the same manner as Working Example 2, with (2S,3S)-ethyl hydrogen N-Z-aziridine-2,3-dicarboxylate (Compound 1, 1.00 g) to afford the above-titled compound (Compound 11; 920 mg) as a colorless oily product (yield 58%).

reactant | isopentylamine | 2.33 ml | C(CC(C)C)N | C5H13N
reactant | Boc-L-leucine monohydrate | 5.00 g | O.C(=O)(OC(C)(C)C)N[C@@H](CC(C)C)C(=O)O
product | N-(Boc-L-leucyl)isopentylamine | 5.73 g | C(=O)(OC(C)(C)C)N[C@@H](CC(C)C)C(=O)NCCC(C)C | C16H32N2O3
